US07714000B2
(f) (R)-4-amino-1-[3-methyl-4-(pyrrolidine-1-sulphonyl)-phenyl]-pyrrolidin-2-one
45 mg (98 μmol) benzyl(R)-{1-[3-methyl-4-(pyrrolidine-1-sulphonyl)-phenyl]-5-oxo-pyrrolidin-3-yl}-carbamate are dissolved in 10 ml of methanol, combined with 25 mg palladium on charcoal and hydrogenated for 8 hours in a Parr apparatus at 3 bar hydrogen pressure at ambient temperature.

reactant | benzyl(R)-{1-[3-methyl-4-(pyrrolidine-1-sulphonyl)-phenyl]-5-oxo-pyrrolidin-3-yl}-carbamate | 98 μmol, 45 mg | CC=1C=C(C=CC1S(=O)(=O)N1CCCC1)N1C[C@@H](CC1=O)NC(OCC1=CC=CC=C1)=O | C23H27N3O5S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 10 ml | CO | CH4O
catalyst | palladium on charcoal | 25 mg | [Pd] | Pd
product | (R)-4-amino-1-[3-methyl-4-(pyrrolidine-1-sulphonyl)-phenyl]-pyrrolidin-2-one | N[C@@H]1CC(N(C1)C1=CC(=C(C=C1)S(=O)(=O)N1CCCC1)C)=O | C15H21N3O3S
